US05618825
t-Butyl 4-(hydroxymethyl)-3-nitrobenzoate:
To a solution of 14.1 g (47.7 mmol, 1.00 eq.) of t-butyl 4-(acetoxymethyl)-3-nitrobenzoate in MeOH (200 mL) was added 27.0 mL (477 mmol, 10.0 eq.) of hydrazine hydrate (55% hydrazine). The resulting yellow solution was stirred at 25° C. for 4 hr. EtOAc (250 mL) and saturated aq. NaCl (85 mL) were added, and the organic layer collected after shaking. The organic layer was washed further with saturated aq. NaCl (2×85 mL), and then dried (MgSO4). Removal of volatiles in vacuo gave the product in 93% yield as yellow crystals. The reaction is represented in Scheme 5.

reactant | t-butyl 4-(acetoxymethyl)-3-nitrobenzoate | 47.7 mmol, 14.1 g, 1.00 eq. | C(C)(=O)OCC1=C(C=C(C(=O)OC(C)(C)C)C=C1)[N+](=O)[O-] | C14H17NO6
reactant | hydrazine hydrate | 477 mmol, 27.0 mL, 10.0 eq. | O.NN
reactant | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
reactant | NaCl | 85 mL | [Na+].[Cl-]
solvent | MeOH | 200 mL | CO | CH4O
product | t-Butyl 4-(hydroxymethyl)-3-nitrobenzoate | 93% yield | OCC1=C(C=C(C(=O)OC(C)(C)C)C=C1)[N+](=O)[O-] | C12H15NO5
